US04426530
15.6 g (50.0 mmols) of 3-acetylamino-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin are suspended in 100 ml of anhydrous dimethylformamide. 11.5 g (75.0 mmols) of phosphorus oxychloride are added dropwise to the suspension at 10°-15° C., and the mixture is stirred for 22 hours at room temperature. The slurry is introduced into 500 ml of ice water, and the mixture is filtered and brought to a pH of 8 with sodium carbonate. The yellow crystals are filtered off under suction, washed with water and dried: 15.5 g (95.5%). Recrystallisation from ethanol yields 12.9 g (80%) of 3-(dimethylaminomethyleneamino)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin in the form of small pale yellow crystals of melting point 158°-159° C.

reactant | 3-acetylamino-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin | 50.0 mmols, 15.6 g | C(C)(=O)NC=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)CC)C)=O | C16H16N4O3
reactant | phosphorus oxychloride | 75.0 mmols, 11.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(dimethylaminomethyleneamino)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin | 12.9 g, 80% | CN(C)C=NC=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)CC)C)=O | C17H19N5O2
